### PR TITLE
[Merged by Bors] - feat: estimates for the complex logarithm

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds estimates for the difference of the complex logarithm `log (1+z)` and its `n`th Taylor polynomial in terms of `‖z‖` when `‖z‖ < 1`.

See [this thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Power.20series.20.2F.20bound.20for.20complex.20logarithm/near/401637775) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Convex.lean [hunk 1]
```diff
@@ -34,3 +34,10 @@ lemma starConvex_ofReal_slitPlane {x : ℝ} (hx : 0 < x) : StarConvex ℝ ↑x s
 
 /-- The slit plane is star-shaped at `1`. -/
 lemma starConvex_one_slitPlane : StarConvex ℝ 1 slitPlane := starConvex_slitPlane one_pos
+
+/-- The slit plane is star-shaped at `1`, spelled out for convenience. -/
+lemma starConvex_one_slitPlane' {z : ℂ} (hz : 1 + z ∈ slitPlane) {t : ℝ} (ht : t ∈ Set.Icc 0 1) :
+    1 + t * z ∈ slitPlane := by
```
Comment (urkud) [inline Mathlib/Analysis/Complex/Convex.lean:40]: You can use [add_smul_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Star.html#StarConvex.add_smul_mem) instead of adding a custom lemma.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
...
+`Complex.logTaylor n` for the Taylor polynomial up to degree `n-1`.
+-/
+
+namespace Complex
+
+/-!
+### Integral representation of the complex log
+-/
+
+lemma continousOn_one_add_mul_inv {z : ℂ} (hz : 1 + z ∈ slitPlane) :
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:27]:
```suggestion
lemma continuousOn_one_add_mul_inv {z : ℂ} (hz : 1 + z ∈ slitPlane) :
```

File: Mathlib/Analysis/Complex/Convex.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/Convex.lean:40]: OK.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:27]: OK; thanks for catching the typo!

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 3]
```diff
@@ -0,0 +1,243 @@
...
+    IntervalIntegrable (fun t : ℝ ↦ t ^ n * ‖(1 + t * z)⁻¹‖) MeasureTheory.volume 0 1 := by
+  have := continuousOn_one_add_mul_inv <| mem_slitPlane_of_norm_lt_one hz
+  rw [← Set.uIcc_of_le zero_le_one] at this
+  exact ContinuousOn.intervalIntegrable <|
+    Continuous.continuousOn (by continuity) |>.mul <| ContinuousOn.norm this
+
+open intervalIntegral in
+/-- The difference of `log (1+z)` and its `(n+1)`st Taylor polynomial can be bounded in
+terms of `‖z‖`. -/
+lemma log_sub_logTaylor_norm_le (n : ℕ) {z : ℂ} (hz : ‖z‖ < 1) :
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:134]:
```suggestion
lemma norm_log_sub_logTaylor_le (n : ℕ) {z : ℂ} (hz : ‖z‖ < 1) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 4]
```diff
@@ -0,0 +1,243 @@
...
+        intervalIntegral.integral_mono_on zero_le_one
+          (integrable_pow_mul_norm_one_add_mul_inv n hz) help <|
+          fun t ht ↦ mul_le_mul_of_nonneg_left (norm_one_add_mul_inv_le ht hz)
+                       (pow_nonneg ((Set.mem_Icc.mp ht).1) _)
+    _ = (1 - ‖z‖)⁻¹ / (n + 1) := by
+        rw [intervalIntegral.integral_mul_const, mul_comm, integral_pow]
+        field_simp
+
+/-- The difference `log (1+z) - z` is bounded by `‖z‖^2/(2*(1-‖z‖))` when `‖z‖ < 1`. -/
+lemma norm_log_sub_self_le {z : ℂ} (hz : ‖z‖ < 1) :
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:175]:
```suggestion
lemma norm_log_one_add_sub_self_le {z : ℂ} (hz : ‖z‖ < 1) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 5]
```diff
@@ -0,0 +1,243 @@
...
+    ‖log (1 + z) - z‖ ≤ ‖z‖ ^ 2 * (1 - ‖z‖)⁻¹ / 2 := by
+  convert log_sub_logTaylor_norm_le 1 hz using 2
+  · simp [logTaylor_succ, logTaylor_zero, sub_eq_add_neg]
+  · norm_num
+
+/-- The difference of `log (1-z)⁻¹` and its `(n+1)`st Taylor polynomial can be bounded in
+terms of `‖z‖`. -/
+lemma log_inv_add_logTaylor_neg_norm_le (n : ℕ) {z : ℂ} (hz : ‖z‖ < 1) :
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:183]:
```suggestion
lemma norm_log_inv_one_sub_add_logTaylor_neg_le (n : ℕ) {z : ℂ} (hz : ‖z‖ < 1) :
```
or
```suggestion
lemma norm_log_one_sub_inv_add_logTaylor_neg_le (n : ℕ) {z : ℂ} (hz : ‖z‖ < 1) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+    ‖log (1 - z)⁻¹ + logTaylor (n + 1) (-z)‖ ≤ ‖z‖ ^ (n + 1) * (1 - ‖z‖)⁻¹ / (n + 1) := by
+  rw [sub_eq_add_neg,
+    log_inv _ <| slitPlane_arg_ne_pi <| mem_slitPlane_of_norm_lt_one <| (norm_neg z).symm ▸ hz,
+    ← sub_neg_eq_add, ← neg_sub', norm_neg]
+  convert log_sub_logTaylor_norm_le n <| (norm_neg z).symm ▸ hz using 4 <;> rw [norm_neg]
+
+/-- The difference `log (1-z)⁻¹ - z` is bounded by `‖z‖^2/(2*(1-‖z‖))` when `‖z‖ < 1`. -/
+lemma norm_log_inv_sub_self_le {z : ℂ} (hz : ‖z‖ < 1) :
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:191]:
```suggestion
lemma norm_log_one_sub_inv_sub_self_le {z : ℂ} (hz : ‖z‖ < 1) :
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
